2204-08-06 07:11:00 Physician Resident Progress Note
Chief Complaint: Cellulitis,  Klebsiella UTI, acute on chronic renal
   failure
   24 Hour Events:
 MIDLINE - START [**2204-8-5**] 03:30 PM
 MULTI LUMEN - START [**2204-8-5**] 06:00 PM
 URINE CULTURE - At [**2204-8-6**] 12:30 AM
 STOOL CULTURE - At [**2204-8-6**] 02:26 AM
   c.diff cx
 BLOOD CULTURED - At [**2204-8-6**] 03:35 AM
   CVL
   -Triple lumen placed - Left subclavian
   -Surgery consulted who suggested vascular surgery consult and CT of
   lower extremeties. Showed no evidence of necrotizing fascitis. They
   were also concerned for abdominal tenderness fo Non-contrast CT
   abd/pelvis obtained. Final read pending.
   -IVF with bicarb given for borderline low BP (systolic in the 90s)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2204-8-5**] 08:19 PM
   Clindamycin - [**2204-8-6**] 12:10 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2204-8-5**] 05:45 PM
   Heparin Sodium (Prophylaxis) - [**2204-8-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-8-6**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.7
C (96.3
   HR: 59 (55 - 111) bpm
   BP: 116/48(66) {83/26(48) - 141/73(80)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
    CO/CI (Fick): (6.9 L/min) / (3.6 L/min/m2)
   Mixed Venous O2% Sat: 66 - 79
   Total In:
                                                                  1,722 mL
                                                                    641 mL
   PO:
   TF:
   IVF:
                                                                  1,722 mL
                                                                    641 mL
   Blood products:
   Total out:
                                                                    110 mL
                                                                     47 mL
   Urine:
                                                                    110 mL
                                                                     47 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,612 mL
                                                                    594 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///15/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   limited exam
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Rash: red, scaly, skin sloughing off
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   218 K/uL
   10.2 g/dL
   258 mg/dL
   6.2 mg/dL
   15 mEq/L
   4.6 mEq/L
   120 mg/dL
   102 mEq/L
   139 mEq/L
   33.7 %
   16.8 K/uL
        [image002.jpg]
                             [**2204-8-5**]  03:33 PM
                             [**2204-8-6**]  03:14 AM
   WBC
   16.7
   16.8
   Hct
   33.2
   33.7
   Plt
   208
   218
   Cr
   6.1
   6.2
   Glucose
   142
   258
   Other labs: PT / PTT / INR:16.6/35.7/1.5, CK / CKMB / Troponin-T:410//,
   ALT / AST:85/197, Alk Phos / T Bili:108/0.2, Differential-Neuts:96.7 %,
   Lymph:2.0 %, Mono:1.1 %, Eos:0.1 %, D-dimer:6190 ng/mL, Fibrinogen:673
   mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.3 g/dL, LDH:421 IU/L, Ca++:6.3
   mg/dL, Mg++:2.1 mg/dL, PO4:9.2 mg/dL
   Fluid analysis / Other labs: [**8-5**] 10pm:
   pH 7.22 pCO2 31 pO2 45 HCO3 13
   [**8-6**] 3:30am
   pH 7.27 pCO2 36 pO2 36 HCO3 17
   O2Sat: 66
   Imaging: CT lower extremeties:
   No evidence of necrotizing fasciitis. Diffuse soft tissue edema
   bilaterally.
   Small bilateral knee joint effusions, nonspecific.
   CT w/o abd/pelvis: final read pending
   Microbiology: Urince culture [**8-5**] pending
   Blood culture [**8-5**] and [**8-6**] no growth to date
   Assessment and Plan
 BACTEREMIA
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: This is a 75F with severe vascular disease and
   chronic kidney disease presenting in transfer with hypotension, ARF and
   anuria and GAS bacteremia.
    # Sepsis. Pt meets criteria for sepsis given hypotension, leukocytosis
   and bandemia. GAS bacteremia is very likely source. Pt with no recent
   complaints of pharyngitis, most likely sources are multiple ulcers on
   lower extremities.
   -Has central access
   -Hydrate with D5bicarb to goal CVP 10-12
   -Monitor lactates and mental status as UOP less likely representative
   of fluid status.
   - f/u CT abd final read
   -off levophed
   - Cont unasyn and clinda
   # GAS bacteremia. Likely due to extensive skin breakdown on LEs.
   Surgery consulted to eval for necrotizing fasciitis.  Based on history
   (ulcerations present for ~2-3 weeks) and exam without rapidly expanding
   erythyema or crepitus, this is unlikely. Pt with severe arterial
   insufficiency on exam.
   -Double coverage with unasyn and clindamycin
   -surveillance blood cultures
   -[**First Name9 (NamePattern2) 9672**] [**Location (un) **] for sensitivities on GAS from [**8-3**]
   -Surgery input appreciated, f/u recs
   -Vascular surgery, f/u recs - want Una boots. Thinks this is venous not
   arterial but still want arteriogram
   [**Name8 (MD) **] RN c/s
   -Multipodus boots
   # Renal failure. Appears to be acute on chronic. Last Cr on labs from
   [**2-27**] was 3.0.  Elevated phos argues for chronic component as well.
   Likely acute worsening in setting of hypotension/sepsis.  Had rare eos
   on UA at OSH, however ARF predated any new meds to raise suspicion for
   AIN. CKs minimally elevated, not c/w rhabdo.
   -Will use D5 Bicarb or LR for rescuscitation.
   -Renal consulted for the am to eval need for CVVH (indication would be
   acidemia) vs. HD.
   -Phos binder
   -renally dose abx, avoid IV contrast.
   -given oliguria, pt may need intubation if develops pulm edema after
   fluid rescusitation. Discussed with pt and family.
   -Hold ACEI
   # Coagulopathy. INR 1.4-->1.5.  ? Evolving DIC
   -Active T&S
   -DIC labs suggest chronic DIC if any. If INR continues to go up,
   consider peripheral smear
   # Altered mental status - Ddx includes hypotension/hypoperfusion vs
   uremia vs medication effect.
   -Minimize sedatives
   -Discuss need for dialysis with renal
   -IVF/pressors as above
   # UTI - OSH cx grew pan-sensitive klebsiella. Started on levaquin on
   [**8-3**].
   -repeat Ucx
   -Unasyn will cover klebsiella
   # Anemia. Has history of iron deficiency anemia, on epogen as an
   outpatient. Basline cr in low to mid 30s, is at or slightly below
   baseline at 33.2, although in setting of likely being
   under-rescusitated this may be artificially high.
   -Keep active T&S
   -monitor
   # CAD. Pt has extensive coronary disease, s/p 4 vessel CABG followed by
   stenting in [**2197**]/[**2198**].  On plavix, BB, ACEI and ASA.  > 1 year out from
   stents which were bare metal.  Pt is very high risk to have a repeat
   cardiac event, but given sepsis and hypotension with recent profound
   bradycardia at OSH, will hold anti-platelet agents and BB.  Holding
   ACEI for ARF and hypotension.
   # HL - Continue statin
   # DM - ISS
   # HTN - holding antihypertensives (amlopdipine, ACEI and BB) for
   hypotension.
   # FEN: NPO tonight.  IVF. Replete lytes cautiously as needed given
   ARF.  Close monitoring of K.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2204-8-5**] 03:30 PM
   Multi Lumen - [**2204-8-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up
   Comments:
   Communication:  Comments: Patient and son [**Name (NI) **]
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2204-08-07 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2204-8-6**] 09:00 AM
   arteriogram and LENIS
 TRANSTHORACIC ECHO - At [**2204-8-6**] 01:30 PM
   Assessment and Plan: This is a 75F with severe vascular disease and
   chronic kidney disease presenting in transfer with hypotension, ARF and
   anuria and GAS bacteremia.
   -wound care consulted, left recs
   -seen by vascular w/recs
   -renal did not want to start dialysis
   -CT abd revealed fluid in abd and pleural effusions, likely [**2-20**]
   anasarca + 1.5 cm hypodensity in liver, rec'd u/s.
   -U/S LEs limited but no DVT
   -echo regional hypokinesis free wall and RV hypokinesis with increase
   TR, PA systolic Pressure
   -CVP up to 20, so did not re-bolus
   -Ctx from [**Location (un) 1415**] showed Klebsiella pneumoniae of urine (unasyn [**Last Name (un) **],
   amp resis), Beta hemolytic GAS (no [**Last Name (un) **] but will send to [**Hospital1 **] to get
   them done)
   -son [**Name (NI) 1814**] by [**Name (NI) **]
   -was going to add Cipro for Gram neg coverage but increase Cr to 6.4 so
   held off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2204-8-5**] 08:19 PM
   Ampicillin - [**2204-8-6**] 07:28 PM
   Clindamycin - [**2204-8-6**] 11:44 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-8-6**] 11:44 PM
   Morphine Sulfate - [**2204-8-7**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-8-7**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 61 (50 - 62) bpm
   BP: 104/51(65) {90/39(52) - 122/88(92)} mmHg
   RR: 15 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 21 (14 - 25)mmHg
   CO/CI (Fick): (24.5 L/min) / (12.8 L/min/m2)
   Mixed Venous O2% Sat: 67 - 88
   Total In:
                                                                  1,442 mL
                                                                    142 mL
   PO:
   TF:
   IVF:
                                                                  1,442 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                    219 mL
                                                                     65 mL
   Urine:
                                                                    219 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,223 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   [**Name (NI) 9696**] pt alert, but drowsy. Following commands.
   Heent- supple, no JVD
   Pulm- coarse BS B/L, no crackles or wheeze
   CV- S1/S2 no MGR
   Abd-soft, NTND.
   Ext-B/L LE wounds covered with dressing and heels off bed in boots.
   1+edema B/L past knees.
   Labs / Radiology
   175 K/uL
   9.1 g/dL
   128 mg/dL
   6.5 mg/dL
   18 mEq/L
   4.6 mEq/L
   126 mg/dL
   103 mEq/L
   140 mEq/L
   29.4 %
   17.1 K/uL
        [image002.jpg]
                             [**2204-8-5**]  03:33 PM
                             [**2204-8-6**]  03:14 AM
                             [**2204-8-6**]  11:36 AM
                             [**2204-8-6**]  05:18 PM
                             [**2204-8-6**]  10:00 PM
                             [**2204-8-7**]  03:40 AM
   WBC
   16.7
   16.8
   17.1
   Hct
   33.2
   33.7
   29.4
   Plt
   [**Telephone/Fax (3) 9693**]
   Cr
   6.1
   6.2
   6.2
   6.4
   6.6
   6.5
   Glucose
   142
   258
   216
   150
   110
   128
   Other labs: PT / PTT / INR:15.6/33.0/1.4, CK / CKMB / Troponin-T:410//,
   ALT / AST:85/121, Alk Phos / T Bili:89/0.2, Amylase / Lipase:40/,
   Differential-Neuts:96.7 %, Lymph:2.0 %, Mono:1.1 %, Eos:0.1 %,
   D-dimer:6190 ng/mL, Fibrinogen:673 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.3 g/dL, LDH:432 IU/L, Ca++:6.3 mg/dL, Mg++:2.1 mg/dL, PO4:9.7
   mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: This is a 75F with severe vascular disease and
   chronic kidney disease presenting in transfer with hypotension, ARF and
   anuria and GAS bacteremia.
   # Sepsis [**2-20**] GAS bacteremia: Likely due to extensive skin breakdown on
   LEs. Pt with severe arterial insufficiency on exam.  Uptrending
   Leukocytosis.
   -Has central access
   -CVP 20, recheck today to assess need to hydrate
   -Monitor lactates and mental status as UOP less likely representative
   of fluid status.
   -off levophed
   - Cont unasyn and clinda
   -surveillance blood cultures from [**8-5**], [**8-6**], [**8-7**].
   #LE wounds: wounds unlikely to heal due to PAD, increasing risk of
   reinfection even if septicemia resolves.  Vascular surgery wants to
   revascularize requiring angio study.  Angio could cause irreversible
   harm to kidneys.
   - Discuss with both vascular and renal regarding risks and benefits of
   angio/revascularization and risk of lifetime hemodialysis.
   - C/S ID regarding risk of vascular stent/hardware in setting of
   septicemia.
   -Vascular surgery-does not want unna boots
   -continue current wound care
   # Renal failure. Appears to be acute on chronic. Last Cr on labs from
   [**2-27**] was 3.0.  Elevated phos argues for chronic component as well.
   Likely acute worsening in setting of hypotension/sepsis.  Had rare eos
   on UA at OSH, however ARF predated any new meds to raise suspicion for
   AIN. CKs minimally elevated, not c/w rhabdo.
   -Will use NS or LR for rescuscitation if needed
   -Renal consulted , does not rec CVVH, reassess today.
   -Phos binder
pt refusing
   -renally dose abx, avoid IV contrast.
   -given oliguria, pt may need intubation if develops pulm edema after
   fluid rescusitation. Discussed with pt and family.
   -Hold ACEI
   # Coagulopathy. INR 1.4-->1.5.  ? Evolving DIC
   -Active T&S
   -DIC labs suggest chronic DIC if any. If INR continues to go up,
   consider peripheral smear
   -recheck Coags in Am
   # Altered mental status - Ddx includes hypotension/hypoperfusion vs
   uremia vs medication effect.
   -Minimize sedatives
   -Discuss need for dialysis with renal
   -IVF/pressors as above
   # UTI - OSH cx grew pan-sensitive klebsiella. Started on levaquin on
   [**8-3**].
   -Unasyn will cover klebsiella
   # Anemia. downtrending h/h may be result of hydration.
   -recheck H/H this PM
   -Keep active T&S
   -monitor
   # CAD. Pt has extensive coronary disease, s/p 4 vessel CABG followed by
   stenting in [**2197**]/[**2198**].  On plavix, BB, ACEI and ASA.  > 1 year out from
   stents which were bare metal.  Pt is very high risk to have a repeat
   cardiac event, but given sepsis and hypotension with recent profound
   bradycardia at OSH, will hold anti-platelet agents and BB.  Holding
   ACEI for ARF and hypotension.
   # HL - Continue statin
   # DM - ISS
   # HTN - holding antihypertensives (amlopdipine, ACEI and BB) for
   hypotension.
   # FEN: NPO tonight.  IVF. Replete lytes cautiously as needed given
   ARF.  Close monitoring of K.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2204-8-5**] 03:30 PM
   Multi Lumen - [**2204-8-5**] 06:00 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2204-08-08 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2204-8-7**] 11:16 PM
   -Renal reassessed yesterday and feels that renal function may be
   recoverable, still hold of on HD.
   -Vascular [**Doctor First Name 458**] understands risk of angio to assess PAD.
   Revascularization may be necessary for LE wound healing, but is not
   emergent at this time.  Vascular will discuss timetable with team
   today.
   - ID did not feel that GAS septicemia was contraindication to
   revascularization procedure or or stent placement.
   -Patient still refusing majority of care including PO meds and
   cleaning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2204-8-5**] 08:19 PM
   Ampicillin - [**2204-8-7**] 08:31 PM
   Clindamycin - [**2204-8-8**] 12:07 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2204-8-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2204-8-8**] 12:38 AM
   Morphine Sulfate - [**2204-8-8**] 04:29 AM
   Other medications:
   Acetaminophen 4. Ampicillin-Sulbactam 5. Atorvastatin 6. Bisacodyl 7.
   Calcium Gluconate
   8. Calcium Acetate 9. Clindamycin 10. Dextrose 50% 11. Docusate Sodium
   12. Heparin Flush (10 units/ml)
   13. Heparin 14. 15. Insulin 16. Morphine Sulfate 17. Pantoprazole 18.
   Pneumococcal Vac Polyvalent
   19. Senna
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-8-8**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 56 (50 - 60) bpm
   BP: 100/45(60) {92/39(55) - 116/54(68)} mmHg
   RR: 15 (8 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 93.4 kg (admission): 84 kg
   Height: 65 Inch
    CVP: 15 (13 - 21)mmHg
   Total In:
                                                                    434 mL
                                                                    335 mL
   PO:
   TF:
   IVF:
                                                                    434 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                    186 mL
                                                                     55 mL
   Urine:
                                                                    186 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    248 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   Gen: arousable to voice and follows commands, NAD
   CV: rrr nl s1/s2 no murmurs
   Pulm: CTA b/l from anterior
   Abd: +BS, soft, +distention but NT
   Ext: legs wrapped peripherals (per nursing and wound care nurse, wounds
   look worse with fluid weeping from right)
   Labs / Radiology
   138 K/uL
   8.9 g/dL
   64 mg/dL
   6.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   131 mg/dL
   103 mEq/L
   140 mEq/L
   29.4 %
   12.8 K/uL
        [image002.jpg]
                             [**2204-8-5**]  03:33 PM
                             [**2204-8-6**]  03:14 AM
                             [**2204-8-6**]  11:36 AM
                             [**2204-8-6**]  05:18 PM
                             [**2204-8-6**]  10:00 PM
                             [**2204-8-7**]  03:40 AM
                             [**2204-8-7**]  04:15 PM
                             [**2204-8-7**]  09:45 PM
                             [**2204-8-8**]  03:25 AM
   WBC
   16.7
   16.8
   17.1
   12.8
   Hct
   33.2
   33.7
   29.4
   30.1
   29.4
   Plt
   [**Telephone/Fax (3) 9706**]38
   Cr
   6.1
   6.2
   6.2
   6.4
   6.6
   6.5
   6.6
   6.8
   Glucose
   142
   258
   216
   150
   110
   128
   76
   64
   Other labs: PT / PTT / INR:15.4/32.5/1.4, CK / CKMB / Troponin-T:419//,
   ALT / AST:81/99, Alk Phos / T Bili:79/0.2, Amylase / Lipase:60/,
   Differential-Neuts:96.7 %, Lymph:2.0 %, Mono:1.1 %, Eos:0.1 %,
   D-dimer:6190 ng/mL, Fibrinogen:673 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.3 g/dL, LDH:388 IU/L, Ca++:5.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:10.9 mg/dL
   Imaging: none
   Microbiology: blood [**2116-8-4**] pending
   urine [**8-5**] final neg
   Assessment and Plan
 HYPOGLYCEMIA
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: This is a 75F with severe vascular disease and
   chronic kidney disease presenting in transfer with hypotension, ARF and
   anuria and GAS bacteremia.
   # Sepsis [**2-20**] GAS bacteremia: Likely due to extensive skin breakdown on
   LEs. Pt with severe arterial insufficiency on exam.  WBC trending down
   today
   -CVP 16 today, no hydration needed
   -Monitor lactates (down to 1.0 yesterday) and mental status as UOP less
   likely representative of fluid status.
   - Cont unasyn D1 [**8-5**]; d/c
d Clinda as stable per ID
   -surveillance blood cultures from [**8-5**], [**8-6**], [**8-7**].
   -awaiting ctx on GAS sent to [**Hospital1 **] from OSH
   #LE wounds: wounds unlikely to heal due to PAD, increasing risk of
   reinfection even if septicemia resolves.  Vascular surgery can hold off
   on angio for now given ARF.
   - remove dressings and monitor today
   - per ID can have intervention if necessary
   -Vascular surgery-does not want unna boots; f/u with them if wounds
   appear worse
   -continue current wound care
   # Renal failure. Appears to be acute on chronic. Last Cr on labs from
   [**2-27**] was 3.0.  Elevated phos argues for chronic component as well.
   Likely acute worsening in setting of hypotension/sepsis.  Had rare eos
   on UA at OSH, however ARF predated any new meds to raise suspicion for
   AIN. CKs minimally elevated, not c/w rhabdo.
   - hold off on IVF for now because appears euvolemic
   -send urine lytes/eos
   -Will use NS or LR for rescuscitation if needed
   -Renal consulted , does not rec CVVH, reassess today.
   -Phos binder
pt refusing
   -renally dose abx, avoid IV contrast.
   -given oliguria, pt may need intubation if develops pulm edema after
   fluid rescusitation. Discussed with pt and family.
   -Hold ACEI
   # Coagulopathy. INR 1.4 and stable
   -Active T&S
   -DIC labs suggest chronic DIC if any. If INR continues to go up,
   consider peripheral smear
   # Altered mental status - Ddx includes hypotension/hypoperfusion vs
   uremia vs medication effect; today appeared worse after Morphine
   -recheck in pm given BUN which continues to rise; would be an
   indication for dialysis if not improved
   -Minimize sedatives
   -Discuss need for dialysis with renal
   # UTI - OSH cx grew pan-sensitive klebsiella. Started on levaquin on
   [**8-3**].
   -Unasyn will cover klebsiella
   # Anemia. Currently stable.
   -Keep active T&S
   -monitor
   # CAD. Pt has extensive coronary disease, s/p 4 vessel CABG followed by
   stenting in [**2197**]/[**2198**].  On plavix, BB, ACEI and ASA.  > 1 year out from
   stents which were bare metal.  Pt is very high risk to have a repeat
   cardiac event, but given sepsis and hypotension with recent profound
   bradycardia at OSH, will hold anti-platelet agents and BB.  Holding
   ACEI for ARF and hypotension.
   # HL - Continue statin
   # DM - ISS
   # HTN - holding antihypertensives (amlopdipine, ACEI and BB) for
   hypotension.
   ICU Care
   Nutrition: regular diabetic, low sodium
   Glycemic Control:  ISS
   Lines:  change to peripheral today and d/c below
   Midline - [**2204-8-5**] 03:30 PM
   Multi Lumen - [**2204-8-5**] 06:00 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: ppi (home med)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: discuss with son pt.
s compliance at baseline ; ?c/o later
   today if stable

2204-08-09 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Ca repleated
   - PIC team did not come by. PIV not in place. After gets PIV (hopefully
   [**8-9**]) can get other unnecessary lines discontinued.
   -pt not eating and several blod sugars in 60s. Need to discuss goals of
   care, including this with son
   -per daughters
   -gen [**Name2 (NI) 458**] evaluated wounds and did not think this was nec fasc, and
   infact thought that LE wounds appeared improved.
   -wound care suggested dermatology c/s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2204-8-7**] 08:31 PM
   Clindamycin - [**2204-8-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2204-8-8**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2204-8-8**] 08:26 AM
   Morphine Sulfate - [**2204-8-9**] 01:03 AM
   Dextrose 50% - [**2204-8-9**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**5-23**] ModeratePain location: everywhere if moved
   Flowsheet Data as of  [**2204-8-9**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96.1
   HR: 61 (53 - 68) bpm
   BP: 136/56(75) {95/32(51) - 136/56(75)} mmHg
   RR: 19 (9 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.4 kg (admission): 84 kg
   Height: 65 Inch
    CVP: 15 (12 - 20)mmHg
   Total In:
                                                                  1,896 mL
                                                                    145 mL
   PO:
   TF:
   IVF:
                                                                  1,871 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                    330 mL
                                                                    110 mL
   Urine:
                                                                    330 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,566 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, b/L Le wounds drsesed and boots in place. Bullae
   seen on RLE.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   151 K/uL
   9.4 g/dL
   67 mg/dL
   6.7 mg/dL
   17 mEq/L
   4.3 mEq/L
   127 mg/dL
   103 mEq/L
   140 mEq/L
   30.5 %
   12.9 K/uL
        [image002.jpg]
                             [**2204-8-6**]  03:14 AM
                             [**2204-8-6**]  11:36 AM
                             [**2204-8-6**]  05:18 PM
                             [**2204-8-6**]  10:00 PM
                             [**2204-8-7**]  03:40 AM
                             [**2204-8-7**]  04:15 PM
                             [**2204-8-7**]  09:45 PM
                             [**2204-8-8**]  03:25 AM
                             [**2204-8-8**]  04:37 PM
                             [**2204-8-9**]  03:07 AM
   WBC
   16.8
   17.1
   12.8
   12.9
   Hct
   33.7
   29.4
   30.1
   29.4
   30.5
   Plt
   [**Telephone/Fax (3) 9723**]51
   Cr
   6.2
   6.2
   6.4
   6.6
   6.5
   6.6
   6.8
   6.9
   6.7
   Glucose
   258
   216
   150
   110
   128
   76
   64
   74
   67
   Other labs: PT / PTT / INR:15.3/32.2/1.3, CK / CKMB / Troponin-T:419//,
   ALT / AST:75/92, Alk Phos / T Bili:88/0.2, Amylase / Lipase:87/81,
   Differential-Neuts:96.7 %, Lymph:2.0 %, Mono:1.1 %, Eos:0.1 %,
   D-dimer:6190 ng/mL, Fibrinogen:673 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.3 g/dL, LDH:388 IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:10.4 mg/dL
   Microbiology: Bcx from [**8-5**], [**8-6**], [**8-7**] pending
   Cdif [**8-6**] negative
   Ucx [**8-5**] negative
   Assessment and Plan
 HYPOGLYCEMIA
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: This is a 75F with severe vascular disease and
   chronic kidney disease presenting in transfer with hypotension, ARF and
   anuria and GAS bacteremia.
   #Pain
   -Morphine 1-2mg IV q1hr, titrate to pt pain through the day with the
   plan of finding adequate pain control dose, and switching to PO med
   tomorrow.
   # Sepsis [**2-20**] GAS bacteremia: Likely due to extensive skin breakdown on
   LEs. Pt with severe arterial insufficiency on exam.  WBC trending down
   today
   -CVP appropriate around 15, improved UPO from 186 yesterday to 330
   today.
   - unasyn D4 (start [**8-5**]); Clinda restarted per ID request ([**8-9**])
   -surveillance blood cultures from [**8-5**], [**8-6**], [**8-7**].
   -awaiting sensitivities on GAS sent to [**Hospital1 **] from OSH
   # Renal failure. Appears to be acute on chronic.  Cr to 6.7 o/n, first
   decrease in several days.  UPO also increased to 30-40cc/hr.  Appears
   improving.
   -Continue IVF today (up to 2L) and monitor UOP closely
   -Renal consulted , encouraged by decreased BUN/Cr
   -Phos binder
pt refusing, renal suggested change to [**Doctor Last Name **](OH)3
   -renally dose abx, avoid IV contrast.
   -given oliguria, pt may need intubation if develops pulm edema after
   fluid rescusitation. Discussed with pt and family.
   -Hold ACEI
   #LE wounds: wounds unlikely to heal due to PAD, increasing risk of
   reinfection even if septicemia resolves.  Vascular surgery can hold off
   on angio for now given ARF.
   - per ID can have vascular intervention if necessary
   -Vascular surgery-does not want unna boots; f/u with them if wounds
   appear worse
   -gen [**Doctor First Name 458**] eval: does not appear to be nec fasc.
   -continue current wound care
   -dermatology c/s to assess cause for bullae.
   # DM
 ISS. Hypoglycemia o/n likely [**2-20**] lack of desire to take PO.
   Continue observe overnight, and discuss NG tube and tube feeds tomorrow
   if poor PO intake persists.
   # Coagulopathy. INR 1.4 and stable
   -Active T&S
   -DIC labs suggest chronic DIC if any. If INR continues to go up,
   consider peripheral smear
   # Altered mental status - Ddx includes hypotension/hypoperfusion vs
   uremia vs medication effect; today appeared worse after Morphine
   -recheck in pm given BUN which continues to rise; would be an
   indication for dialysis if not improved
   -Minimize sedatives
   -Discuss need for dialysis with renal
   # UTI - OSH cx grew pan-sensitive klebsiella. Started on levaquin on
   [**8-3**].
   -Unasyn will cover klebsiella
   # Anemia. Currently stable.
   -Keep active T&S
   -monitor
   # CAD. Pt has extensive coronary disease, s/p 4 vessel CABG followed by
   stenting in [**2197**]/[**2198**].  On plavix, BB, ACEI and ASA.  > 1 year out from
   stents which were bare metal.  Pt is very high risk to have a repeat
   cardiac event, but given sepsis and hypotension with recent profound
   bradycardia at OSH, will hold anti-platelet agents and BB.  Holding
   ACEI for ARF and hypotension.
   # HL - Continue statin
   # HTN - holding antihypertensives (amlopdipine, ACEI and BB) for
   hypotension.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2204-8-5**] 03:30 PM
   Multi Lumen - [**2204-8-5**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2204-08-10 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PTH elevated at 491, ordered per derm
   -Dr. [**Last Name (STitle) 832**] had long conversation with son-> pt now DNR/DNI; after
   conversation son also decided NO NG tube; ?HD
   -pm cr trending down
   -per derm; ?calciphylaxis.  Will return for punch biopsy tomorrow.
   Thinks bullae on hand from edema/tape trauma.  Recs miconazole for
   under breasts and something for feet but unclear what kind of
   antifungal for tinea pedis
   -per ID, increased Unasyn to 3G
   -pan-sensitive GAS culture from blood
   -line and blood ctx sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2204-8-7**] 08:31 PM
   Clindamycin - [**2204-8-9**] 05:46 PM
   Ampicillin/Sulbactam (Unasyn) - [**2204-8-9**] 08:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-8-10**] 12:00 AM
   Morphine Sulfate - [**2204-8-10**] 03:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-8-10**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.8
   HR: 59 (54 - 65) bpm
   BP: 132/45(66) {100/34(53) - 132/72(80)} mmHg
   RR: 12 (8 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 93.4 kg (admission): 84 kg
   Height: 65 Inch
    CVP: 15 (9 - 19)mmHg
   Total In:
                                                                  1,416 mL
                                                                  1,246 mL
   PO:
   TF:
   IVF:
                                                                  1,391 mL
                                                                  1,246 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    225 mL
   Urine:
                                                                    495 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    921 mL
                                                                  1,021 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   143 K/uL
   9.4 g/dL
   56 mg/dL
   6.5 mg/dL
   16 mEq/L
   4.2 mEq/L
   128 mg/dL
   104 mEq/L
   141 mEq/L
   29.4 %
   13.3 K/uL
        [image002.jpg]
                             [**2204-8-6**]  05:18 PM
                             [**2204-8-6**]  10:00 PM
                             [**2204-8-7**]  03:40 AM
                             [**2204-8-7**]  04:15 PM
                             [**2204-8-7**]  09:45 PM
                             [**2204-8-8**]  03:25 AM
                             [**2204-8-8**]  04:37 PM
                             [**2204-8-9**]  03:07 AM
                             [**2204-8-9**]  02:04 PM
                             [**2204-8-10**]  01:32 AM
   WBC
   17.1
   12.8
   12.9
   13.3
   Hct
   29.4
   30.1
   29.4
   30.5
   29.4
   Plt
   175
   138
   151
   143
   Cr
   6.4
   6.6
   6.5
   6.6
   6.8
   6.9
   6.7
   6.5
   6.5
   Glucose
   150
   110
   128
   76
   64
   74
   67
   56
   Other labs: PT / PTT / INR:15.5/35.1/1.4, CK / CKMB / Troponin-T:419//,
   ALT / AST:61/68, Alk Phos / T Bili:86/0.2, Amylase / Lipase:87/81,
   Differential-Neuts:96.7 %, Lymph:2.0 %, Mono:1.1 %, Eos:0.1 %,
   D-dimer:6190 ng/mL, Fibrinogen:673 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.3 g/dL, LDH:388 IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:10.6 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOGLYCEMIA
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: This is a 75F with severe vascular disease and
   chronic kidney disease presenting in transfer with hypotension, ARF and
   anuria and GAS bacteremia.
   #Pain
   -required 8mg Morphine IV spread evenly throughout the day.  Con't
   until taking PO.  Change to Oxycontin 1 tablet PO BID with oxycodone
   [**1-20**] tablet q6h prn breakthrough pain
   # Sepsis [**2-20**] GAS bacteremia: Likely due to extensive skin breakdown on
   LEs. Pt with severe arterial insufficiency on exam.  WBC trending down
   today
   - unasyn D5 (start [**8-5**]); Clinda d2 restarted per ID request ([**8-9**])
   -surveillance blood cultures from [**8-5**], [**8-6**], [**8-7**].
   -awaiting sensitivities on GAS sent to [**Hospital1 **] from OSH
   # Renal failure. Appears to be acute on chronic.  Cr to 6.5 down from
   6.7 yesterday..  UPO 495 today up from 330 yesterday.  Appears
   improving.
   -Vgas showed pH 7.17.  Given 1L D5 w/ 3 amps HCO3. recheck Vgas after
   finshed.  consider 2nd L HCO3 if still acidotic.
   -continue NS IVF 1L at 200cc/hr, after HCO3, w/ goal UPO 30
   -Renal consulted , encouraged by decreased BUN/Cr
   -Phos binder
pt refusing, renal suggested change to [**Doctor Last Name **](OH)3
   -renally dose abx, avoid IV contrast.
   -given oliguria, pt may need intubation if develops pulm edema after
   fluid rescusitation. Discussed with pt and family.
   -Hold ACEI
   #LE wounds: wounds unlikely to heal due to PAD, increasing risk of
   reinfection even if septicemia resolves.  Vascular surgery can hold off
   on angio for now given ARF.
   -dermatology c/s: concern for calciphylaxis  with high PTH, pain.  Will
   bx.   Also, start miconazole 2% cream for under breasts.
   - per ID can have vascular intervention if necessary
   -Vascular surgery-does not want unna boots; f/u with them if wounds
   appear worse
   -gen [**Doctor First Name 458**] eval: does not appear to be nec fasc.
   -continue current wound care
   # DM
 ISS. Hypoglycemia o/n likely [**2-20**] lack of desire to take PO.
   Continue observe overnight, and discuss NG tube and tube feeds tomorrow
   if poor PO intake persists.
   -pt will not get NG tube for feeds.
   # Coagulopathy. INR 1.4 and stable
   -Active T&S
   -DIC labs suggest chronic DIC if any. If INR continues to go up,
   consider peripheral smear
   # Altered mental status - Ddx includes hypotension/hypoperfusion vs
   uremia vs medication effect; today appeared worse after Morphine
   -recheck in pm given BUN which continues to rise; would be an
   indication for dialysis if not improved
   -Minimize sedatives
   -Discuss need for dialysis with renal
   # UTI - OSH cx grew pan-sensitive klebsiella. Started on levaquin on
   [**8-3**].
   -Unasyn will cover klebsiella
   # Anemia. Currently stable.
   -Keep active T&S
   -monitor
   # CAD. Pt has extensive coronary disease, s/p 4 vessel CABG followed by
   stenting in [**2197**]/[**2198**].  On plavix, BB, ACEI and ASA.  > 1 year out from
   stents which were bare metal.  Pt is very high risk to have a repeat
   cardiac event, but given sepsis and hypotension with recent profound
   bradycardia at OSH, will hold anti-platelet agents and BB.  Holding
   ACEI for ARF and hypotension.
   # HL - Continue statin
   # HTN - holding antihypertensives (amlopdipine, ACEI and BB) for
   hypotension
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2204-8-5**] 03:30 PM
   Multi Lumen - [**2204-8-5**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor